US04665202
To a stirred solution of 5.8 g 4-chloro-3-formyl-flav-3-ene in 500 ml tert-butanol and 100 ml 2-methylbut-2-ene at room temperature is added dropwise a solution of 17.9 g sodium chlorite and 17.9 g sodium dihydrogenophosphate in 200 ml water. Stirring is continued for 5 hours. The solution is concentrated in vacuo and water is added to the residue to give a suspension. The mixture is extracted with hexane and the clear organic extracts are discarded. Subsequently, the aqueous suspension is acidified to pH 3 and the mixture is extracted with chloroform. The combined chloroform extracts are washed with water, dried over magnesium sulfate, filtered and evaporated. The residual solid is recrystallized in a mixture of chloroform and hexane. Pure 4-chloro-3-carboxy-flav-3-ene is obtained as yellow crystals; m.p. 210° C.

reactant | 4-chloro-3-formyl-flav-3-ene | 5.8 g | ClC1=C(C(OC2=CC=CC=C12)C1=CC=CC=C1)C=O | C16H11ClO2
reactant | sodium chlorite | 17.9 g | Cl(=O)[O-].[Na+]
reactant | sodium | 17.9 g | [Na] | Na
solvent | tert-butanol | 500 ml | C(C)(C)(C)O | C4H10O
solvent | 2-methylbut-2-ene | 100 ml | CC(C)=CC | C5H10
solvent | water | 200 ml | O | H2O
product | 4-chloro-3-carboxy-flav-3-ene | ClC1=C(C(OC2=CC=CC=C12)C1=CC=CC=C1)C(=O)O | C16H11ClO3
